US06458772B1
a) t-Butyl 2,3-bis(N-CBz-L-valyloxy)propionate
To a solution of t-butyl 2,3-dihydroxypropionate (2.43 g, 15 mmole), N-CBz-L-valine (7.54 g, 30 mmole) and DMAP (0.37 g, 3 mmole) in 150 ml dichloromethane was added DCC (7.2 g 35 mmole) and the mixture was stirred for two days at room temperature. The mixture was cooled to about 5° C. and the urethane was filtered. The filtrate was evaporated, ethyl acetate was added and the organic phase washed twice with 5% acetic acid, 5% sodium hydrogen carbonate and water. The organic phase was dried with sodium sulfate filtered and evaporated under reduced pressure. The product was isolated by silica gel column chromatography. Yield: 8.2 g=86%

reactant | t-butyl 2,3-dihydroxypropionate | 15 mmole, 2.43 g | OC(C(=O)OC(C)(C)C)CO | C7H14O4
reactant | N-CBz-L-valine | 30 mmole, 7.54 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | DCC | 35 mmole, 7.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 3 mmole, 0.37 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | t-Butyl 2,3-bis(N-CBz-L-valyloxy)propionate | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OC(C(=O)OC(C)(C)C)COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O | C33H44N2O10
